US07405302B2
Step 1: 2,2-Dimethyl-pent-4-ynoic acid ethyl ester
Diisopropylamine (45.9 mL, 0.33 mol) was dissolved in THF (300 mL) and cooled to 0° C. under N2. n-Butyllithium (131.0 mL, 0.33 mol) was added dropwise over 30 minutes, the mixture was stirred at 0° C. for an additional 30 minutes, and then cooled to −78° C. Ethyl isobutyrate (40 mL, 0.30 mol) was added dropwise in THF (30 mL) and the mixture was stirred at −78° C. for 1 hour. Propargyl bromide (36.4 mL, 0.33 mol) was added dropwise in HMPA (60 mL). The mixture was stirred at −78° C. for 1 hour and then quenched with saturated NH4Cl solution and warmed to room temperature. THF was removed in vacuo, and the residue was dissolved in ether and washed four times with water. The organic layer was dried over MgSO4, filtered, and concentrated. The crude material was distilled under reduced pressure (˜29 inHg, bp 68-70° C.) to obtain the desired product.

reactant | Diisopropylamine | 0.33 mol, 45.9 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 0.33 mol, 131.0 mL | C(CCC)[Li]
reactant | Ethyl isobutyrate | 0.30 mol, 40 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | Propargyl bromide | 0.33 mol, 36.4 mL | C(C#C)Br | C3H3Br
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | HMPA | 60 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2,2-Dimethyl-pent-4-ynoic acid ethyl ester | C(C)OC(C(CC#C)(C)C)=O | C9H14O2
